US04082764
A solution of 11.5 parts of 2-amino-5-chlorobenzophenone, 11.5 parts of ethyl orthoacetate and 6 volume parts of acetic acid in 100 volume parts of benzene is refluxed for 20 minutes, whereby 5-chloro-2-(1-ethoxyethylideneamino)-benzophenone are obtained as crystals. Recrystallization from methanol-water gives colorless needles melting at 62° to 63° C. Yield: 93%.

reactant | 2-amino-5-chlorobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-chloro-2-(1-ethoxyethylideneamino)-benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N=C(C)OCC | C17H16ClNO2
